US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol), propionyl chloride (0.47 mL, 5.3mmol), and triethylamine (2.1 mL, 15 mmol) in tetrahydrofuran (20 mL) provided N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-propionamide (0.23 g). Mp 164-165° C.; Anal. Calcd. for C15H17NO2: C, 74.05; H, 7.04; N, 5.76; Found: C, 74.09; H, 7.09; N, 5.78.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | propionyl chloride | 5.3mmol, 0.47 mL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-propionamide | 0.23 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(CC)=O | C15H17NO2
